US07858800B2
1) Production of 4-(1H-imidazol-4-yl)-1,2,3,6-tetra-hydropyridine hydrochloride
tert-Butyl 4-hydroxy-4-(1H-imidazol-4-yl)-piperidine-1-carboxylate (20 mg) was dissolved in 6 ml of 6M hydrochloric acid and the solution was stirred at 120° C. for one night. The solvent was evaporated in vacuo and the precipitate was filtered to give 55 mg of the title compound as a dark solid crude product.

reactant | tert-Butyl 4-hydroxy-4-(1H-imidazol-4-yl)-piperidine-1-carboxylate | 20 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1N=CNC1 | C13H21N3O3
reactant | hydrochloric acid | 6M, 6 ml | Cl | ClH
product | 4-(1H-imidazol-4-yl)-1,2,3,6-tetra-hydropyridine hydrochloride | 55 mg | Cl.N1C=NC(=C1)C=1CCNCC1 | InChI=1S/C8H11N3.ClH/c1-3-9-4-2-7(1)8-5-10-6-11-8;/h1,5-6,9H,2-4H2,(H,10,11);1H
